US07605271B2
To a 200 ml four necked flask equipped with a stirrer, a dropping funnel, a cooling tube and a thermometer, 32.84 g (0.4 mol) of 1-methyl imidazole and 40 ml of toluene were charged and heated at 50° C., to which 68.63 g (0.44 mol) of ethyl iodide was dropped slowly taking one hour. After dropping, and further reacting at 50° C. for 4 hours, deposited solids were filtered, subjected to solvent cleaning and dried under a reduced pressure to obtain 90.47 g of 1-ethyl-3-methyl imidazolium iodide salt.

reactant | 1-methyl imidazole | 0.4 mol, 32.84 g | CN1C=NC=C1 | C4H6N2
reactant | ethyl iodide | 0.44 mol, 68.63 g | C(C)I | C2H5I
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 1-ethyl-3-methyl imidazolium iodide salt | 90.47 g | [I-].C(C)[N+]1=CN(C=C1)C | InChI=1S/C6H11N2.HI/c1-3-8-5-4-7(2)6-8;/h4-6H,3H2,1-2H3;1H/q+1;/p-1
